US06110929
Concentrated hydrochloric acid (0.2 mL of 12.1M) was added to a solution of 2-methylthiazolo[4,5-c]quinolin-4-amine (0.5 g) in methanol (15 mL). Isopropanol (15 mL) was added and then the reaction mixture was heated at reflux to remove the majority of the methanol. The resulting precipitate was isolated by filtration, washed with isopropanol and dried to provide 2-methylthiazolo[4,5-c]quinolin-4-amine hydrochloride as a solid, m.p. 323-325° C. Analysis: Calculated for C11H9N3S.HCl: % C, 52.48; % H, 4.00; % N, 16.69; Found: % C, 52.46; % H, 4.08; % N, 16.52.

reactant | hydrochloric acid | 12.1M, 0.2 mL | Cl | ClH
reactant | 2-methylthiazolo[4,5-c]quinolin-4-amine | 0.5 g | CC=1SC2=C(C(=NC=3C=CC=CC23)N)N1 | C11H9N3S
reactant | Isopropanol | 15 mL | C(C)(C)O | C3H8O
solvent | methanol | 15 mL | CO | CH4O
product | 2-methylthiazolo[4,5-c]quinolin-4-amine hydrochloride | Cl.CC=1SC2=C(C(=NC=3C=CC=CC23)N)N1 | InChI=1S/C11H9N3S.ClH/c1-6-13-9-10(15-6)7-4-2-3-5-8(7)14-11(9)12;/h2-5H,1H3,(H2,12,14);1H
